US06509328B1
3-[7-(4-Chloro-phenylethynyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile
Prepared from [2-amino-4-(4-chloro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester (Example G13) (187 mg, 0.5 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) (184 mg, 0.6 mmol) according to the general procedure K. The obtained material (234 mg) was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow powder (93 mg).

reactant | [2-amino-4-(4-chloro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester | 0.5 mmol, 187 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)Cl)N)=O | C19H19ClN2O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 0.6 mmol, 184 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[7-(4-Chloro-phenylethynyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile | 93 mg | ClC1=CC=C(C=C1)C#CC1=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C=C1 | C24H14ClN3O
